US03933841
Additions are made dropwise, at -10° to -5°, firstly of 31 ml of triethylamine and then of 4.3 ml of carbon disulphide to 18.4 g of 2-(4'-methylphenoxy)-6-aminobenzothiazole in 360 ml of absolute diethyl ether. Stirring is continued for ca. 12 hours at room temperature; the mixture is cooled to 0°, and an addition made at this temperature, within 30 minutes, of 6.7 ml of phosphorus oxychloride in 80 ml of absolute diethyl ether. After 10 hours' stirring at room temperature, filtration is performed; the filter residue is washed firstly with diethyl ether and then with water and dried. the product is afterwards chromatographed through aluminium oxide, with methylene chloride as the eluant, to obtain 2-(4'-methylphenoxy)-6-isothiocyanobenzothiazole, M.P. 121° - 123°.

reactant | triethylamine | 31 ml | C(C)N(CC)CC | C6H15N
reactant | carbon disulphide | 4.3 ml | C(=S)=S | CS2
reactant | 2-(4'-methylphenoxy)-6-aminobenzothiazole | 18.4 g | CC1=CC=C(OC=2SC3=C(N2)C=CC(=C3)N)C=C1 | C14H12N2OS
reactant | phosphorus oxychloride | 6.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethyl ether | 360 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 2-(4'-methylphenoxy)-6-isothiocyanobenzothiazole | CC1=CC=C(OC=2SC3=C(N2)C=CC(=C3)N=C=S)C=C1 | C15H10N2OS2
